US06660753B2
In a similar fashion, 5-methylnicotinoyl chloride was prepared from 5-methyinicotinic acid (548 mg, 4 mmoles). Treatment of the acid chloride with pyrid-2-ylamidoxime (822 mg, 6 mmol) and triethylamine (1.2g, 12 mmol) in dichloromethane (6 mL), followed by heating in dimethylformamide (6 mL) at 120° C. for 2.5 hours, afforded 448 mg (47%) of 3-(2-pyridyl)-5-(5-methyl-pyrid-3-yl)-1,2,4-oxadiazole.

reactant | 5-methylnicotinoyl chloride | CC=1C=NC=C(C(=O)Cl)C1 | C7H6ClNO
reactant | 5-methyinicotinic acid | 4 mmoles, 548 mg | CC=1C=NC=C(C(=O)O)C1 | C7H7NO2
reactant | triethylamine | 12 mmol, 1.2g | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(5-methyl-pyrid-3-yl)-1,2,4-oxadiazole | 448 mg, 47% | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)C | C13H10N4O
